US05849911
1-[4-(Pyridin-2-yl)-phenyl]4(S)-hydroxy-2-N-(N-methoxy-carbonyl-(L)-valyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane
Analogously to Example 1, a solution of 0.964 g (1.5 mmol) of 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)- tert-leucyl)amino-6-phenyl-2-aza-hexane hydrochloride in 10 ml of DMF is added dropwvise to a mixture of 0.42 g (2.4 mmol) of N-methoxycarbonyl-(L)-valine, 0.862 g (4.5 mmol) of EDC, 0.405 g (3 mmol) of HOBT and 1.26 ml of TEA in 10 ml of DMF. After working up, the crude product is digested in DIPE, filtered off and dried. Subsequent column chromatography (SiO2 ; hexane/ethyl acetate: 1/1 to 3/1) yields the pure title compound (TLC: Rf =0.35 (ethyl acetate); HPLC20-100 : tRet =10.9. FAB MS (M+H)+ =691.

reactant | 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)- tert-leucyl)amino-6-phenyl-2-aza-hexane hydrochloride | 1.5 mmol, 0.964 g | Cl.N1=C(C=CC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)N
reactant | N-methoxycarbonyl-(L)-valine | 2.4 mmol, 0.42 g | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | EDC | 4.5 mmol, 0.862 g
reactant | HOBT | 3 mmol, 0.405 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[4-(Pyridin-2-yl)-phenyl]4(S)-hydroxy-2-N-(N-methoxy-carbonyl-(L)-valyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane | N1=C(C=CC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)NC([C@@H](NOC)C(C=C=O)C)=O | C37H48N6O7
